### PR TITLE
List lemmas

### PR DESCRIPTION
**Pull request by h0nzZik**

### CODE REVIEW

File: Lib/ListExtras.v [hunk 1]
```diff
@@ -1805,3 +1855,37 @@ Definition list_sum_project_right
...
+
+Lemma fold_right_andb_false l:
+  fold_right andb false l = false.
+Proof.
+  induction l.
+  - reflexivity.
+  - simpl. rewrite IHl. apply andb_false_r.
+Qed.
+
+Lemma Forall_fold_right_bool {A : Type} (P : A -> bool) (l : list A):
```
Comment (palmskog) [inline Lib/ListExtras.v:1867]: Since we are trying to get rid of booleans, are you sure we really need this lemma? In stdpp, there is already the following lemma which should provide the same functionality without booleans:
```coq
Forall_fold_right:
  ∀ (A : Type) (P : A → Prop) (l : list A), Forall P l ↔ foldr (λ x : A, and (P x)) True l
```

File: Lib/ListExtras.v [hunk 2]
```diff
@@ -1805,3 +1855,37 @@ Definition list_sum_project_right
...
+  - simpl. split; intros H.
+    + inversion H. subst. clear H.
+      rewrite H2. apply IHl in H3. rewrite H3.
+      reflexivity.
+    + apply andb_prop in H. destruct H as [Ha Hfr].
+      apply IHl in Hfr.
+      exact (Forall_cons _ Ha Hfr).
+Qed.
+
+Lemma nth_error_last_error {A : Type} (l : list A) :
```
Comment (palmskog) [inline Lib/ListExtras.v:1881]: It seems likely that `last_error` will disappear in future refactorings, since stdpp's `last` does the same thing. In fact, one can show that the two are extensionally equal - see my suggestion in `StdppExtras.v`.

File: Lib/StdppExtras.v [hunk 3]
```diff
@@ -0,0 +1,68 @@
...
+  - destruct l.
+    { reflexivity. }
+    simpl. rewrite <- IHn. apply skipn_S_tail.
+Qed.
+
+Lemma map_tail [A B : Type] (f : A -> B) (l : list A) :
+  map f (tail l) = tail (map f l).
+Proof.
+  destruct l; reflexivity.
+Qed.
```
Comment (palmskog) [inline Lib/StdppExtras.v:68]:
```suggestion
Qed.

Lemma nth_error_last_error {A : Type} (l : list A) :
  nth_error l (length l - 1) = last l.
Proof.
  induction l; [reflexivity|]; simpl.
  destruct l; [reflexivity|]; simpl.
  simpl in IHl.
  rewrite Nat.sub_0_r in IHl.
  rewrite IHl; reflexivity.
Qed.

Lemma last_last_error {A : Type} (l : list A) :
 last_error l = last l.
Proof.
 induction l; [reflexivity|]; simpl.
 rewrite <- IHl; clear IHl.
 destruct l; [reflexivity|]; simpl.
 f_equal.
 induction l; [reflexivity|]; simpl.
 rewrite <- IHl.
 destruct l; reflexivity.
Qed.
```

**Review by palmskog — CHANGES_REQUESTED** [review]
Based on my inline comments, can we minimize the changes to `ListExtras.v` to avoid rebasing issues?

File: Lib/ListExtras.v [hunk 4]
```diff
@@ -263,6 +263,36 @@ Proof.
     tauto.
 Qed.
 
+Lemma Exists_last
```
Comment (palmskog) [inline Lib/ListExtras.v:266]: Note that this lemma works just as well in `StdppExtras.v`, copied verbatim (but the semantics changes slightly).

**Review by palmskog — APPROVED** [review]
